US09029544B2
8-Aminospiro[3.5]non-7-en-6-one
10 g 8-hydroxyspiro[3.5]non-7-en-6-one and 10.1 g ammonium acetate are dissolved in 100 ml toluene and 3.2 ml acetic acid. The mixture is refluxed for 2 hours using a Dean-Stark trap. After cooling to room temperature the mixture is cautiously added to 200 ml of a saturated solution of sodium bicarbonate and 100 g ice. Then the mixture is stirred for 15 minutes, the solid product is collected by filtration and dried at 50° C. in vacuo.

reactant | 8-hydroxyspiro[3.5]non-7-en-6-one | 10 g | OC1=CC(CC2(CCC2)C1)=O | C9H12O2
reactant | ammonium acetate | 10.1 g | C(C)(=O)[O-].[NH4+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | acetic acid | 3.2 ml | C(C)(=O)O | C2H4O2
product | 8-Aminospiro[3.5]non-7-en-6-one | NC1=CC(CC2(CCC2)C1)=O | C9H13NO
